### ISSUE TITLE
`obtain` in `decreasing_by` block leads to kernel type error

### ISSUE THREAD

**Issue by datokrat** [leanprover/lean4#10287]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

In certain cases, using the `obtain` tactic in a `decreasing_by` tactic block can lead to an ill-typed state that later leads to a "(kernel) application type mismatch" error.

### Context

This bug occurred again while I was working on a [project](https://codeberg.org/preichert/homotopy-lean) related to type theory formalization involving many declarations with delicate termination behavior.

### Steps to Reproduce

Run this:

```lean4
inductive X : Nat → Type where

/--
error: (kernel) application type mismatch
  @Eq.mp (X j) (X j) ⋯
argument has type
  (@fun _a => X _a) j = (@fun _a => X _a) x.val
but function has type
  X j = X j → X j → X j
-/
#guard_msgs(error) in
def f (h : X j) : X j := by
    have : { j' // j = j' } := ⟨j, rfl⟩
    rw [this.2] at h
    have _ := f h
    sorry
termination_by sizeOf h
decreasing_by
  obtain ⟨val, hty⟩ := this
  sorry
```

**Expected behavior:**

Either calling the `obtain` tactic should fail (although I think this one should work) or it should produce a well-typed tactic state.

**Actual behavior:**

The `obtain` tactic makes the goal ill-typed, leading to a kernel type error.

The tactic state at the end is:

```lean
j : Nat
h : X j
val : Nat
hty : j = val
⊢ sizeOf (@Eq.mp (X j) (X j) ⋯.mp h) < sizeOf h
```

The omitted proof is `congrArg (fun _a => X _a) ⟨val, hty⟩.property : X j = X ⟨val, hty⟩.val`, but `@Eq.mp (X j) (X j)` expects `X j = X j`. Pre-`obtain`, the proof had type `X j = X this.val` and `this.val` was defeq to `j`.

Moving the `obtain` out of the `decreasing_by` block into the declaration's body, the error disappears.

### Versions

```
Lean 4.24.0-nightly-2025-09-06
Target: x86_64-unknown-linux-gnu
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Have you tried to put the goal as presented in `decreasing_by` into an `example` to see if it is a problem with (only) `obtains` or if it’s particular to `decreasing_by`?

**Comment by nomeata** [comment]
The answer is that the same proof state seems to work in `theorem`:
```
inductive X : Nat → Type where

theorem test (j : Nat) (h : X j) (this : { j' // j = j' } := ⟨j, rfl⟩) : sizeOf ((congrArg (fun _a => X _a) this.property).mp h) < sizeOf h := by
  obtain ⟨val, hty⟩ := this
  sorry
```
Odd.

**Comment by datokrat** [comment]
I also [tried](https://live.lean-lang.org/#codez=JYOwJgrgxgLsBuBTABADWQLmQOQIY2UCTCZAFQE8AHFAdwAtEAnRAKGbEQDNkuAKWzNMgBWASgHohmALzIARmWbIlyWriQCA3sIDkyAPR7hyGUN0BfackAX5EIA0yBhwA2gS/JFyhtWQBtGLWAAzgB0AEwAusj4Ku5KquoA+pZctDHIAQD2DAwKMIwAtqD4wOkg8fJpwABeiADyyWyIUEy4AaAA5mUKSi3xuBAAHvFOiHl5uMYAfKnpsjC4oNbwuE72tDBkLpZ+gakZWWRAA) using `as_aux_lemma =>` as a workaround. This way, the type error is emitted by the elaborator instead of the kernel. Still, the error seems odd, indeed.

**Comment by Rob23oba** [comment]
This is a better repro:
```lean-4
inductive X : Nat → Type where

theorem test (j : Nat) (h : X j) :
    let this : { j' // j = j' } := ⟨j, rfl⟩;
    sizeOf (@Eq.mp.{1} (X j) (X j) (congrArg X this.2) h) < sizeOf h := by
  intro this
  obtain ⟨val, hty⟩ := this
  sorry
```
Indeed, turning the `let` into a `have` causes a type error.
